US08349851B2
(6-Fluoro-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone was prepared from (4-chloro-6-fluoroquinazolin-2-yl)(4-fluorophenyl)methanone (306 mg, 1 mmol) and 5-methyl-1H-pyrazol-3-amine (194 mg, 2 mmol) using a procedure analogous to that described in Example 48 Step A. The crude product was triturated with MeOH to afford (6-fluoro-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone (310 mg, 85%). 1H NMR (300 MHz, DMSO-d6) δ 12.24 (s, 1H), 10.71 (s, 1H), 8.64 (d, J=9.6 Hz, 1H), 7.95-8.09 (m, 2H), 7.93-7.95 (m, 1H), 7.80-7.86 (m, 1H), 7.39 (t, J=8.6 Hz, 2H), 6.53 (s, 1H), 1.91 (s, 3H); LC-MS (ESI) m/z 366 (M+H)+.

reactant | (4-chloro-6-fluoroquinazolin-2-yl)(4-fluorophenyl)methanone | 1 mmol, 306 mg | ClC1=NC(=NC2=CC=C(C=C12)F)C(=O)C1=CC=C(C=C1)F | C15H7ClF2N2O
reactant | 5-methyl-1H-pyrazol-3-amine | 2 mmol, 194 mg | CC1=CC(=NN1)N | C4H7N3
product | (6-fluoro-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone | 310 mg, 85% | FC=1C=C2C(=NC(=NC2=CC1)C(=O)C1=CC=C(C=C1)F)NC1=NNC(=C1)C | C19H13F2N5O
